Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___
 
Chief Complaint:
Rectal bleeding
 
Major Surgical or Invasive Procedure:
EGD and Colonoscopy

 
History of Present Illness:
Mr. ___ is a ___ with HTN, mild cognitive
impairment, and history of diverticular bleeds who is presenting
with rectal bleeding.

He has a history of diverticular bleeding with two previous
admissions to ___, last in ___ (required 6U pRBC
and urgent colonoscopy as well as tagged RBC, neither of which
revealed the source). The ___ Medicine and Surgery 
inpatient
teams had discussed possible total colectomy to forestall future
LGIB episodes, about which pt. remained reluctant. 

His wife reports that last night she noticed some maroon stools
that smelled like previous GI bleeds. This morning he started
having episodes of bleeding with dark maroon stools and large
amounts of bright red blood in the toilet. He's had three
episodes since this morning. He reports some associated malaise,
but no lightheadedness, shortness of breath, or chest pain. He
denies abdominal pain, nausea, or vomiting. He does not take
NSAIDs or use EtOH.

As a result of these symptoms he went to see his PCP who noted
red blood and guaiac positive stool on rectal exam and sent him
to the ED for further evaluation.
 
ED Course:
Vitals: HR ___, BP 130s/70s
Data: Hct 33.6 (from 42 in ___
Interventions: 1L NS
 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
HTN
HLD
GI Bleeding
Mild Cognitive Impairment
 
Social History:
___
Family History:
FAMILY HISTORY: 
Son with ulcerative colitis
 
Physical Exam:
Physical exam on admission: 
Vitals: ___ 1530 Temp: 97.8 PO BP: 118/74 HR: 73 RR: 18 O2
sat: 100% O2 delivery: RA 
GENERAL: Well appearing, no distress
EYES: Anicteric, +conjunctival pallor
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no significant ___ edema
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted on examined skin
NEURO: Alert, oriented, face symmetric, moving all 4 extremities
well. 
PSYCH: pleasant, appropriate affect

Physical exam on discharge: 
VITALS: Afebrile and HDS
GENERAL: Well appearing, no distress
CV: Heart regular, no significant ___ edema
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
MSK: Neck supple, moves all extremities, strength grossly full
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 06:45    7.2 2.57* 7.6* 21.8* 85 29.6 34.9 13.7 41.5 
___ w/ hx of HTN, mild cognitive impairment, recurrent 
diverticular bleeds who is presenting with rectal bleeding. S/p 
EGD and colonoscopy on ___ which showed likely diverticular 
bleeding. Bleeding stopped during colonoscopy and area was 
tattooed. She rectal bleeding stopped and she was HDS and H/H 
stabilized. She is being discharged home w/ close PCP ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 160 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Pravastatin 40 mg PO QAM 
4. Donepezil 10 mg PO QAM 
5. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
1.  Donepezil 10 mg PO QAM  
2.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
3.  Pravastatin 40 mg PO QAM  
4.  Sertraline 25 mg PO DAILY  
5.  Valsartan 160 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Diverticular bleed
 
Discharge Condition:
Good
 
Discharge Instructions:
You came in with bleeding from rectum. You have history of 
diverticular bleeding in the past. You were seen by 
Gastroenterology and underwent EGD and Colonoscopy. You were 
bleeding most likely from the diverticulosis. You bleeding has 
stopped not and your hemoglobin has been stable. You are also 
week from hospitalization and recent hip surgery. You were seen 
by ___ here. 
 
Followup Instructions:
___